US08809372B2
To a solution of DIPA (0.424 g, 4.2 mmol) in dry THF at −78° C. was added n-BuLi (0.268 g, 4.2 mmol) dropwise at −78° C., and the mixture was stirred for 30 min to produce LDA. A solution of 2-(4-fluorophenyl)thiazole (0.510 g, 2.8 mmol) in dry THF at −78° C. was then added to the above LDA solution. 7,8-Dihydroisoquinolin-5(6H)-one (0.419 g, 2.8 mmol) [prepared as described in Vanotti, International Patent Publication No. WO-2008/065054] was added dropwise to the reaction mixture, which was then stirred for 20 min at −78° C. After completion of the reaction, the reaction was quenched with saturated ammonium chloride, extracted with ethyl acetate (3×30 mL), washed with water followed by brine, dried over sodium sulfate, and concentrated under reduced pressure. The crude solid was purified by washing with the mixture of MeOH and ether, followed by filtering resulted in 5-(2-(4-fluorophenyl)thiazol-5-yl)-5,6,7,8-tetrahydroisoquinolin-5-ol (0.42 g, 45% yield). 1H NMR (400 MHz, DMSO-d6): δ 1.67 (m, 1H), 1.97 (m, 1H), 2.16 (t, 2H), 2.80 (t, 2H), 6.50 (s, 1H), 7.26 (s, 1H), 7.29 (m, 3H), 7.92 (m, 2H), 8.36 (m, 1H), 8.41 (s, 1H); LC-MS m/z calculated for [M+H]+ 327.09, found 327.1.

reactant | 2-(4-fluorophenyl)thiazole | 2.8 mmol, 0.510 g | FC1=CC=C(C=C1)C=1SC=CN1 | C9H6FNS
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | 7,8-Dihydroisoquinolin-5(6H)-one | 2.8 mmol, 0.419 g | C1=NC=CC=2C(CCCC12)=O | C9H9NO
solvent | THF | C1CCOC1 | C4H8O
product | 5-(2-(4-fluorophenyl)thiazol-5-yl)-5,6,7,8-tetrahydroisoquinolin-5-ol | 0.42 g, 45% yield | FC1=CC=C(C=C1)C=1SC(=CN1)C1(C=2C=CN=CC2CCC1)O | C18H15FN2OS
